US06384220B2
A slurry of dichlorobis(triphenylphosphine)palladium(II) (119 mg, 0.17 mmol) in 1,2-dimethoxyethane (10 mL) was treated with 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester (1.00 g, 2.79 mmol). The reaction slurry was stirred at 25° C. for 10 min and then treated with a solution of pyridine-4-boronic acid (515 mg, 4.19 mmol) and a 2M aqueous sodium carbonate solution (2.8 mL, 5.58 mmol) in water (5 mL). The resulting reaction mixture was heated under reflux for 8 h. The reaction mixture was allowed to cool to 25° C. where it was stirred for 3 d. The reaction mixture was partitioned between water (75 mL) and methylene chloride (75 mL), and the layers were separated. The aqueous layer was further extracted with methylene chloride (75 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-(4-pyridin-4-yl-phenyl)-propionic acid methyl ester (240 mg, 28%) as a brown oil that was used without further purification and characterization.

reactant | 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester | 2.79 mmol, 1.00 g | COC(C(CC1CCCC1)C1=CC=C(C=C1)I)=O | C15H19IO2
reactant | pyridine-4-boronic acid | 4.19 mmol, 515 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 5.58 mmol, 2M, 2.8 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.17 mmol, 119 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-cyclopentyl-2-(4-pyridin-4-yl-phenyl)-propionic acid methyl ester | 240 mg, 28% | COC(C(CC1CCCC1)C1=CC=C(C=C1)C1=CC=NC=C1)=O | C20H23NO2
